US04638000
In 12 ml of 1N aqueous sodium hydroxide solution is dissolved 0.5 g of 3(R)-[1(S)-ethoxycarbonyl-4-(4-piperidyl)butyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid.dihydrobromide, and the solution is allowed to stand at room temprature fof 30 minutes. The solution is neutralized with 2 ml of acetic acid, and purified by MCI-gel (CHP 20P, 150 to 300μ, Mitsubishi Chemical Industries, Japan) column chormatography (water:methanol=2:1). The eluent is concentrated under reduced pressure, and the residue is lyophilized to give 0.3 g of 3(R)-[1(S)-carboxy-4-(4-piperidyl)butyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid as a colorless powder.

reactant | 3(R)-[1(S)-ethoxycarbonyl-4-(4-piperidyl)butyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid.dihydrobromide | 0.5 g | Br.Br.C(C)OC(=O)[C@H](CCCC1CCNCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 1N, 12 ml | [OH-].[Na+]
product | 3(R)-[1(S)-carboxy-4-(4-piperidyl)butyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid | 0.3 g | C(=O)(O)[C@H](CCCC1CCNCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C21H29N3O5S
